US07812024B2
Step A. Preparation of N,N-diethyl-2-methylthio-4-propylbenzamide
To a stirring solution of N,N-diethyl-4-propylbenzamide (2.0 g, 9.3 mmol) and N,N,N′N′-tetramethylethylenediamine (1085 mg, 9.4 mmol) in dry THF (93 mL) at −78° C. under Ar was added 0.78 M s-butyllithium in hexanes (12 mL). The reaction was stirred for 30 min and then methyl disulfide (1936 mg, 12.1 mmol) was added. The reaction was stirred for 5 min and then quenched with MeOH (1 mL) and brine. The reaction was extracted with EtOAc (3×50 mL). The organic layers were combined, dried over Na2SO4, and conc in vacuo to a yellow oil. The oil was purified by flash chromatography (SiO2, 0-30% EtOAc in hexanes) to yield 2.1 g (86%) of the product as a yellow oil. MS (ESI) 266 (M+H).

reactant | N,N-diethyl-4-propylbenzamide | 9.3 mmol, 2.0 g | C(C)N(C(C1=CC=C(C=C1)CCC)=O)CC | C14H21NO
reactant | s-butyllithium | 0.78 M | C(C)(CC)[Li]
reactant | methyl disulfide | 12.1 mmol, 1936 mg | CSSC | C2H6S2
solvent | THF | 93 mL | C1CCOC1 | C4H8O
product | N,N-diethyl-2-methylthio-4-propylbenzamide | 2.1 g, 86% | C(C)N(C(C1=C(C=C(C=C1)CCC)SC)=O)CC | C15H23NOS
